US05002949
5-Bromo-6-[[(5-bromo-3-pyridinyl)methyl]amino]-2-methyl-4(3H)-pyrimidone
A stirred mixture of 5-bromo-6-chloro-2-methyl-4-pyrimidinol (4.54 g, 20.3 mmol) and 5-aminomethyl-3-bromopyridine (11.4 g, 61.0 mmol) in 1,2-dimethoxyethane (40 mL) was heated at reflux for 18 hours. The mixture was cooled to 23° C. The precipitate which formed was isolated, rinsed with 1,2-dimethoxyethane and water, and then recrystallized from methanol to provide the title compound as a white, analytically pure product (5.16 g, 13.8 mmol, 68% of theory): mp 241-242 C.; Rf 0.62 (20% MeOH in EtOAc); 1H NMR (DMSO-D6, 400 MHz)δ8.56 (d, J=2 Hz, 1H), 8.49 (d, J=2 Hz, 1H), 7.92 (m, 1H), 7.33 (t, J=6 Hz, 1H), 4.55 (d, J=6 Hz, 2H), 2.16 (s, 3H); IR (KBr) 3400 (NH), 2700-3000 (CH), 1640 (C=O) cm-1 ; UV (MeOH)λ278 (ε12,400); mass spectrum m/e 372 (M+, 54%), 374 (M+, 100%), 376 (M+, 52%), 185 (C6H6BrN2, 78%).

reactant | 5-bromo-6-chloro-2-methyl-4-pyrimidinol | 20.3 mmol, 4.54 g | BrC=1C(=NC(=NC1Cl)C)O | C5H4BrClN2O
reactant | 5-aminomethyl-3-bromopyridine | 61.0 mmol, 11.4 g | NCC=1C=C(C=NC1)Br | C6H7BrN2
solvent | 1,2-dimethoxyethane | 40 mL | COCCOC | C4H10O2
product | 5-Bromo-6-[[(5-bromo-3-pyridinyl)methyl]amino]-2-methyl-4(3H)-pyrimidone | BrC=1C(NC(=NC1NCC=1C=NC=C(C1)Br)C)=O | C11H10Br2N4O
